US09290490B2
Ethyl trans-4-{2-fluoro-1-hydroxy-1-[5-(3-methyl-5-{[4-(trifluoromethyl)-pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]ethyl}cyclohexanecarboxylate (72 mg, 0.130 mmol) was dissolved in HCl (10 M in water, 2 ml, 20.0 mmol) and heated to reflux for 20 min. The reaction was diluted with DMSO and purified on reverse phase HPLC (acetonitrile/water with a 0.1% TFA modifier) to afford racemic trans-4-{2-fluoro-1-hydroxy-1-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]ethyl}cyclohexanecarboxylic acid. MS ESI calc'd. for C24H24F4N4O3S [M+H]+ 525. found 525.

reactant | Ethyl trans-4-{2-fluoro-1-hydroxy-1-[5-(3-methyl-5-{[4-(trifluoromethyl)-pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]ethyl}cyclohexanecarboxylate | 0.130 mmol, 72 mg | FCC(C=1SC(=CN1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C)(O)[C@@H]1CC[C@H](CC1)C(=O)OCC | C26H28F4N4O3S
reactant | HCl | 20.0 mmol, 10 M, 2 ml | Cl | ClH
solvent | DMSO | CS(=O)C | C2H6OS
product | racemic trans-4-{2-fluoro-1-hydroxy-1-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]ethyl}cyclohexanecarboxylic acid | FCC(C=1SC(=CN1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C)(O)[C@@H]1CC[C@H](CC1)C(=O)O | C24H24F4N4O3S
